US05792557
A 500-ml reactor was charged with 33.6 g (0.10 mol) of N,N'-diphenylbenzidine, 25.0 g (0.11 mol) of m-iodotoluene, 27.6 g (0.2 mol) of potassium carbonate, 2.6 g of copper powder, and 200 ml of nitrobenzene. In an argon stream, the contents were heated under reflux for 24 hours. At the end of reaction, the insoluble was removed by filtration and the solvent was distilled off from the filtrate. The still residue was purified twice through a silica gel column with a 1/2mixture of n-hexane and toluene, obtaining 28.10 g of N,N'-diphenyl-N-[4-(N-phenyl-N-3-methylphenylamino)-biphenyl-4-yl]benzidine (yield 42%).

reactant | N,N'-diphenylbenzidine | 0.10 mol, 33.6 g | C1(=CC=CC=C1)NC1=CC=C(C=C1)C1=CC=C(NC2=CC=CC=C2)C=C1 | C24H20N2
reactant | m-iodotoluene | 0.11 mol, 25.0 g | IC=1C=C(C=CC1)C | C7H7I
reactant | potassium carbonate | 0.2 mol, 27.6 g | C([O-])([O-])=O.[K+].[K+]
catalyst | copper | 2.6 g | [Cu] | Cu
solvent | nitrobenzene | 200 ml | [N+](=O)([O-])C1=CC=CC=C1 | C6H5NO2
product | N,N'-diphenyl-N-[4-(N-phenyl-N-3-methylphenylamino)-biphenyl-4-yl]benzidine | 28.10 g, yield 42% | C1(=CC=CC=C1)N(C1=CC=C(C=C1)C1=CC=C(NC2=CC=CC=C2)C=C1)C1(CC=C(C=C1)C1=CC=CC=C1)N(C1=CC(=CC=C1)C)C1=CC=CC=C1 | C49H41N3
